US06472412B1
A mixture of 6-fluoro-3-hydroxy-4-methoxybenzaldehyde (2 g), potassium carbonate (1.66 g) and anhydrous dimethylformamide (20 mL) is treated with cyclopentyl bromide (1.62 mL) and heated on a steam bath for 43 hours. The mixture is cooled, poured into water (200 mL) and extracted with diethyl ether (3×100 mL). The combined ethereal extracts are washed with sodium hydroxide solution (2×50 mL; 2 N), and brine (2×50 mL), dried over magnesium sulphate and concentrated. The residual brown oil is subjected to flash chromatography [a solvent gradient of 9:1 to 4:1 v/v petroleum ether (b.p. 60-80° C.) and ethyl acetate is used as eluent on a silica gel column] to give 3-cyclopentyloxy-6-fluoro-4-methoxybenzaldehyde (1.42 g) in the form of a yellow oil. [NMR (CDCl3): 10.22 (s, 1H), 7.27 (d, 1H, J=8 Hz), 6.63 (d, 1H, J=16 Hz), 4.81-4.76 (m, 1H), 3.91 (s, 3H), 2.01-1.57 (m, 8H)].

reactant | 6-fluoro-3-hydroxy-4-methoxybenzaldehyde | 2 g | FC1=CC(=C(C=C1C=O)O)OC | C8H7FO3
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | cyclopentyl bromide | 1.62 mL | C1(CCCC1)Br | C5H9Br
solvent | water | 200 mL | O | H2O
product | 3-cyclopentyloxy-6-fluoro-4-methoxybenzaldehyde | 1.42 g | C1(CCCC1)OC=1C=C(C=O)C(=CC1OC)F | C13H15FO3
